US07732463B2
A mixture of 4-(2-tri-iso-propylsilanylsulfanyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (38 mg, 0.085 mmol) and 1-iodo-4-trifluoromethyl-benzene (23 mg, 0.085 mmol) was dissolved in dry degassed toluene (0.3 mL). Pd2dba3 (1 mg) and DPEphos (1 mg) dissolved in dry toluene (0.2 mL) were added. To this solution were added potassium tert-butoxide (10 mg) and tetra-n-butyl ammonium fluoride (TBAF, 1M in TBF, 0.1 mL, 0.1 mmol) and the reaction mixture was stirred at 110° C. for 1 h under argon. The solution was filtered and the solvent was evaporated off. The crude product was purified by chromatography on silica gel (eluent: An increasing amount (0-100%) of ethyl acetate in heptane) to produce 4-[2-(4-trifluoromethyl-phenylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (3a1) as a clear oil (22 mg, 59% yield). This material was dissolved in methanol (1 mL) and hydrogen chloride in diethyl ether (2M, 1 mL) was added and the solution was stirred overnight at rt. The solvent was evaporated of and the crude product was purified by BPLC (containing 0.1% TFA in the standard eluent) to produce 4-[2-(4-trifluoromethyl-phenylsulfanyl)-phenyl]-piperidine 3a1 as the trifluoro-acetic acid salt. Yield: 3.2 mg (8% overall). LC/TOF (m/z) 338.0 (MH+); RT=2.29 min; purity (UV, ELSD): 98.3%, 97.1%.

reactant | 4-(2-tri-iso-propylsilanylsulfanyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.085 mmol, 38 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C25H43NO2SSi
reactant | 1-iodo-4-trifluoromethyl-benzene | 0.085 mmol, 23 mg | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | potassium tert-butoxide | 10 mg | CC(C)([O-])C.[K+]
reactant | tetra-n-butyl ammonium fluoride | 0.1 mmol, 1M, 0.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(4-trifluoromethyl-phenylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 22 mg, 59% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)SC1=CC=C(C=C1)C(F)(F)F | C23H26F3NO2S
